US07371743B2
(d) 3-chloro-4-(5-methyl-morpholin-3-on-4-yl)-benzoic acid
Prepared analogously to Example 31b from ethyl 3-chloro-4-(5-methyl-morpholin-3-on-4-yl)-benzoate with lithium hydroxide in THF and water.

reactant | ethyl 3-chloro-4-(5-methyl-morpholin-3-on-4-yl)-benzoate | ClC=1C=C(C(=O)OCC)C=CC1N1C(COCC1C)=O | C14H16ClNO4
reactant | lithium hydroxide | [OH-].[Li+]
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-chloro-4-(5-methyl-morpholin-3-on-4-yl)-benzoic acid | ClC=1C=C(C(=O)O)C=CC1N1C(COCC1C)=O | C12H12ClNO4
